US05210092
A mixture of 2-amino-4-methyl-3nitropyridine (5.0 g) and N,N-dimethylaniline (8.5 ml) was heated at 100° C. under nitrogen atmosphere. To the solution was added butyryl chloride (3.5 ml) and the mixture was stirred at 100° C. for 5 hours. After being cooled to room temperature, ethyl acetate was added to the reaction mixture. The organic layer was separated and washed successively with water and brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was washed with n-hexane to give 2-butyrylamino-4-methyl-3-nitropyridine (7.0 g).

reactant | 2-amino-4-methyl-3nitropyridine | 5.0 g | NC1=NC=CC(=C1[N+](=O)[O-])C | C6H7N3O2
reactant | N,N-dimethylaniline | 8.5 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | butyryl chloride | 3.5 ml | C(CCC)(=O)Cl | C4H7ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyrylamino-4-methyl-3-nitropyridine | 7.0 g | C(CCC)(=O)NC1=NC=CC(=C1[N+](=O)[O-])C | C10H13N3O3
